US04680301
A solution of 170 g of 2-tert-butyl-5-chloro-6-nitrobenzothiazole described in Example 5, in 200 ml of morpholine is refluxed for 6.5 hours, cooled and poured into water. The solid is filtered, washed with water and cold alcohol to give 2-tert-butyl-5-[morpholin-4-yl]-6-nitrobenzothiazole melting at 119°-121°.

reactant | 2-tert-butyl-5-chloro-6-nitrobenzothiazole | 170 g | C(C)(C)(C)C=1SC2=C(N1)C=C(C(=C2)[N+](=O)[O-])Cl | C11H11ClN2O2S
reactant | water | O | H2O
solvent | morpholine | 200 ml | N1CCOCC1 | C4H9NO
product | 2-tert-butyl-5-[morpholin-4-yl]-6-nitrobenzothiazole | C(C)(C)(C)C=1SC2=C(N1)C=C(C(=C2)[N+](=O)[O-])N2CCOCC2 | C15H19N3O3S
